US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrimidine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-chloropyrimidine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 42 mg, 32%) which was obtained as a brown solid. MS: m/e=262.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrimidine | 42 mg, 32% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=NC=CC=N1 | C16H11N3O
